US05532261
6-Bromo-9-methyl-β-carboline (2)
A solution of 6-bromo-β-carboline (1.0 g, 4.05 mmol) in 12 mL of DMF was stirred in an ice bath and 186 mg (4.65 mmol, 1.15 equiv.) of 60% sodium hydride in mineral oil dispersion was added. Gas evolution was observed and stirring was continued for 1 h at ambient temperature. The homogenous reaction was partitioned between EtOAc and H2O. The organic layer was washed again with H2O followed by brine. After drying (MgSO4), evaporation gave a pale yellow solid.

reactant | 6-bromo-β-carboline | 4.05 mmol, 1.0 g | BrC=1C=C2C=3C=CN=CC3NC2=CC1 | C11H7BrN2
reactant | sodium hydride | 4.65 mmol, 186 mg, 1.15 equiv. | [H-].[Na+]
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-9-methyl-β-carboline | BrC=1C=C2C=3C=CN=CC3N(C2=CC1)C | C12H9BrN2
